US07459448B2
9-Chloro-2-dimethylamino-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-22)
In a manner similar to that described for method I, 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) and 1,1-dimethylguanidine sulfate were converted to I-22 (42%): HRMS Calcd. for C14H13ClN4O: 289.0856, Found 289.0843.

reactant | 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | 1,1-dimethylguanidine sulfate | S(=O)(=O)(O)O.CN(C(=N)N)C
product | 9-Chloro-2-dimethylamino-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)N(C)C)=O)C1 | C14H13ClN4O
